US09023850B2
Step A: Preparation of 2-amino-5-(trifluoromethyl)pyrimidine
A 2-L flask fitted with a dry ice condenser and addition funnel was charged with dimethylsulfoxide (500 mL) and a 0.5 M solution of sulfuric acid in dimethylsulfoxide (400 mL), followed by the addition of 2-aminopyrimidine (20.0 g, 211 mmol). The reaction mixture was stirred vigorously for 5 minutes, and then a 1 M solution of iron(II) sulfate in water (60 mL) was added. Trifluoromethyl iodide (200 g, 1.02 moles) was added below the surface of the reaction mixture at room temperature. The reaction mixture was then cooled to 0° C., and 50% aqueous hydrogen peroxide (20 mL, 294 mmol) was added dropwise over one hour. The ice bath was then removed, and the reaction mixture was allowed to warm to room temperature over three hours. The reaction mixture was then carefully neutralized to pH 6.5 with aqueous sodium carbonate. The reaction mixture was then extracted with ethyl acetate (3×300 mL), and the combined organic extracts were dried over magnesium sulfate and concentrated under reduced pressure. The resulting oil was purified by chromatography on silica gel eluting with a hexane/ethyl acetate gradient to afford 4.51 g of the title compound as an off white solid. 1H NMR (CDCl3) δ 8.51 (s, 2H), 5.55 (br s, 2H).

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 2-aminopyrimidine | 211 mmol, 20.0 g | NC1=NC=CC=N1 | C4H5N3
reactant | Trifluoromethyl iodide | 1.02 moles, 200 g | FC(F)(F)I | CF3I
reactant | hydrogen peroxide | 294 mmol, 20 mL | OO | H2O2
solvent | dimethylsulfoxide | 400 mL | CS(=O)C | C2H6OS
solvent | water | 60 mL | O | H2O
catalyst | iron(II) sulfate | S(=O)(=O)([O-])[O-].[Fe+2]
solvent | dimethylsulfoxide | 500 mL | CS(=O)C | C2H6OS
product | 2-amino-5-(trifluoromethyl)pyrimidine | 4.51 g | NC1=NC=C(C=N1)C(F)(F)F | C5H4F3N3
